US09193935B2
2.17: 1-tert-Butyl-4-(2-methyl-5-phenylpent-3-enyl)benzene
Starting from phenethyltriphenylphosphonium bromide (3.00 g, 6.71 mmol, 1.0 equiv.), n-BuLi (1.6 M in hexanes, 4.2 mL, 6.71 mmol, 1.0 equiv.) and 3-(4-tert-butylphenyl)-2-methylpropanal (2.05 g, 10.1 mmol, 1.5 equiv.), 1.35 g (69%) of the title compound as a colorless oil was obtained after purification by flash chromatography on SiO2 (cyclohexane/EtOAc 997:3).

reactant | phenethyltriphenylphosphonium bromide | 6.71 mmol, 3.00 g, 1.0 equiv. | [Br-].C(CC1=CC=CC=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-BuLi | 6.71 mmol, 1.6 M, 4.2 mL, 1.0 equiv. | [Li]CCCC
reactant | 3-(4-tert-butylphenyl)-2-methylpropanal | 10.1 mmol, 2.05 g, 1.5 equiv. | C(C)(C)(C)C1=CC=C(C=C1)CC(C=O)C | C14H20O
product | 1-tert-Butyl-4-(2-methyl-5-phenylpent-3-enyl)benzene | 1.35 g, 69% | C(C)(C)(C)C1=CC=C(C=C1)CC(C=CCC1=CC=CC=C1)C | C22H28
